US07714010B2
2-(4-Methoxy-phenyl)-7,7-dimethyl-5-(3-morpholin-4-yl-propyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one is prepared from N-[3,3-dimethyl-1-(3-morpholin-4-yl-propyl)-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl]-4-methoxy-benzamide (575 mg) by hydrogenation at 70° C. as described in Example 1b using Raney-nickel (70 mg). The catalyst is filtered off and the filtrate is heated at 100° C. for 2 h. By adding concentrated ammonia the desired compound (360 mg) precipitates and is collected by filtration.

reactant | N-[3,3-dimethyl-1-(3-morpholin-4-yl-propyl)-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl]-4-methoxy-benzamide | 575 mg | CC1(C(N(C2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])CCCN1CCOCC1)=O)C | C25H30N4O6
catalyst | Raney-nickel | 70 mg | [Ni] | Ni
product | 2-(4-Methoxy-phenyl)-7,7-dimethyl-5-(3-morpholin-4-yl-propyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | COC1=CC=C(C=C1)C1=NC=2C(=CC=3C(C(N(C3C2)CCCN2CCOCC2)=O)(C)C)N1 | C25H30N4O3
